US05668147
EXAMPLE 6 a) 1-Cyclopropyl-6,8-difluoro-1,4-dihydro-7-(trans-3-hydroxymethyl-4-trifluoromethyl-1-pyrrolidinyl)-4-oxoquinoline-3-carboxylic acid
In 6 ml of dimethylsulfoxide, is dissolved 283 mg (1 mmol) of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid. To the above solution, are added 411 mg (2 mmol) of trans-3-hydroxymethyl-4-trifluoromethylpyrrolidine hydrochloride and 0.42 ml (3 mmol) of triethylamine. The mixture is stirred at 50° C. for 18 hours. The reaction mixture was concentrated under reduced pressure. Water was added to the residue. The resulting precipitate was obtained by filtration and washed successively with water, isopropanol and diethyl ether to give 412 mg of the objective substance as a slightly yellow powder (yield 95.4%).

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1 mmol, 283 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | trans-3-hydroxymethyl-4-trifluoromethylpyrrolidine hydrochloride | 2 mmol, 411 mg | Cl.OC[C@@H]1CNC[C@H]1C(F)(F)F
reactant | triethylamine | 3 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 6 ml | CS(=O)C | C2H6OS
product | 1-Cyclopropyl-6,8-difluoro-1,4-dihydro-7-(trans-3-hydroxymethyl-4-trifluoromethyl-1-pyrrolidinyl)-4-oxoquinoline-3-carboxylic acid | yield 95.4% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1C[C@H]([C@@H](C1)C(F)(F)F)CO)F)=O)C(=O)O | C19H17F5N2O4
